US05972975
Step B: 4,6-Dimethyl-5-ethenyl-2-aminopyridine
In a 10 mL round bottomed flask was added a magnetic stirrer bar, 500 mg (1.2 mmol) of triphenylphosphonium methyl bromide and 137 mg (1.22 mmol) of potassium t-butoxide. The flask is stoppered with a rubber septum, flushed with nitrogen and 5 mL of dry THF was added to the mixture. After stirring at room temperature for 1 h, the solution was cooled to -60° C. and a solution of 170 mg (1.0 mmol) of 5-formyl4,6-dimethyl-2-aminopyridine in 2 mL of THF was added. After stirring for 30 minutes, the solution was warmed to 25° C. and stirred for 1 h. The solvent was removed in vacuo and and the title compound purified by silica gel column chromatography eluted with (methylene chloride/methanol (95:5).

reactant | triphenylphosphonium methyl bromide | 1.2 mmol, 500 mg | CBr.C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 1.22 mmol, 137 mg | CC(C)([O-])C.[K+]
reactant | 5-formyl4,6-dimethyl-2-aminopyridine | 1.0 mmol, 170 mg | C(=O)C=1C(=CC(=NC1C)N)C | C8H10N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4,6-Dimethyl-5-ethenyl-2-aminopyridine | CC1=CC(=NC(=C1C=C)C)N | C9H12N2
